US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(2-benzimidazolyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-10b-methyl-1,2,3,4,4a,-5,6,10b-octahydrobenzo[f]quinolin-3-one-8-boronic acid (187 mg, 0.65 mmol), tetrakis (triphenylphosphine)palladium (0) (23 mg, 0.02 mmol), 2-chlorobenzimidazole (104 mg, 0.68 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. An additional 23 mg of the palladium reagent was added, and let stir an additional 16 h. The mixture was cooled, diluted with chloroform (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (0-5% methanol/ethyl acetate eluent gradient) to give 57 mg (25%) of the title compound as an amorphous foam. mp 183°-186°. FDMS: m/e=345.

reactant | 2-chlorobenzimidazole | 0.68 mmol, 104 mg | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium | 23 mg | [Pd] | Pd
product | (+)-(4aR)-(10bR)-4-methyl-8-(2-benzimidazolyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 57 mg, 25% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C=3NC1=C(N3)C=CC=C1)C)=O | C22H23N3O
